Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lamictal / methimazole
 
Attending: ___
 
Chief Complaint:
abdominal pain, transferred for biopsy
 
Major Surgical or Invasive Procedure:
EUS-guided biopsy on ___

 
History of Present Illness:
Ms. ___ is a ___ woman with history of HCV s/p Harvoni c/b
Childs A cirrhosis, history of prior hepatic lesion that
spontaneously resolved on serial imaging, hyperthyroidism, and
osteopenia who is being transferred from ___ after presenting
with abdominal pain, subsequently found to have a new 5-6cm
hepatic lesion as well as potential tumor thrombus.  

She presented to ___ on ___ w abdominal pain, recent
URI sx, non-bloody vomiting, and was found to have 5-6cm liver
lesion that would need management and biopsy at ___. Attempted transfer to ___ however we were on code 
help,
so she was accepted to ___ instead. 

While at ___, AFP checked and was normal. CT torso w IV con
showed heterogeneous liver mass at hilum w invasion vs 
thrombosis
into portal vein. MRI then obtained, showed heterogeneously
enhancing mass predominantly intravascular in location within 
the
main portal vein w portions of relative hypo-enhancement, which
may represent bland thrombus adjacent to enhancing components
that likely represent tumor thrombus or an intravascular
malignancy such as leiomyosarcoma or angiosarcoma, potentially
secondary involvement of portal vein. There wree also
heterogeneously enchaining portocaval lymphadenopathy concerning
for metastatic disease. She was evaluated by heme/onc and GI w
recs for tissue bx. Given location of mass, ___ unable to 
perform.
GI also unable to collect tissue via EUS. Initially, plan was to
consult surgical oncology for bx, however after discussion w Dr.
___ made to transfer her to ___ for continuity of
care. 

Currently, Ms. ___ states that she feels well overall. Denies
any abdominal pain, has not required any pain medications at 
___.
Still bothered by her low appetite. Last BM was 2 days ago (no
blood) but abdomen does not feel distended. She denies 
confusion,
hematemesis, SOB, chest pain, cough, ___ edema, falls,
lightheadedness. 

Of note, in ___ she was noted to have a solid lesion 
in
her liver that measured 1.4 cm and met OPTN 5A criteria. She was
closely monitored, and the lesion increased to 1.5cm -> 1.7cm 
and
had an associated AFP 31.4. She was referred for liver 
transplant
evaluation, however during this period the segment VI lesion was
noted to progressively decrease in size. She has had serial MRIs
and in ___ this lesion was no longer visible on imaging. She
continued to have serial MRIs q3-6mo with no visible lesion. Her
last MRI (___) and last RUQUS (___) continued to
demonstrate no lesion.  

 
Past Medical History:
- HCV c/b hepatocellular carcinoma, Childs ___ class A
- Hyperthyroidism, for which she is on propylthiouracil x
approximately ___
- Osteoporosis
- History of brain hemangioma resected in ___ ___ at
___
-Seizure Disorder: see note, ___: followed by Neurology ( 
Dr. ___ at ___ for continued seizure disorder.
-Colonic Adenoma x2, resected (see colonoscopy notes, ___, 
___
-Diverticulosis (See colonoscopy note, ___
-Internal hemorrhoids (See colonoscopy note, ___
-Schatzki Ring, broken via endoscopy x2, ___
-Diaphragmatic hernia (see endoscopy note, ___
-Umbillical hernia, noted ___
-Extrarenal pelvis in R Kidney (___)
- Tubal ligation, ___
-Gonorrhea ___
-PID, ___

 
Social History:
___
Family History:
Mother-diabetes ___ and hypertension
Sister- deceased, pancreatic cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.3 118/73 69 18 95 RA 
GENERAL: NAD  
HEENT: anicteric sclera, MMM  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: mild R-sided crackles in posterior mid-lung field, no
wheezes, rhonchi, breathing comfortably on RA
ABDOMEN: nondistended, TTP in RUQ/epigastric area, no
rebound/guarding, +BS
EXTREMITIES: wwp, no cyanosis or edema   
NEURO: A&Ox3, face symmetric, moving all extremities w purpose

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 756)
    Temp: 98.1 (Tm 98.8), BP: 139/79 (116-195/77-100), HR: 65
(65-100), RR: 18, O2 sat: 97% (97-99), O2 delivery: Ra, Wt: 
122.7
lb/55.66 kg  

GEN: lying down, appears comfortable
CV: RRR
LUNGS: comfortable on room air
ABD: soft, nontender, nondistended
EXT: warm, well perfused
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:39AM BLOOD WBC-5.7 RBC-4.63 Hgb-13.7 Hct-42.4 MCV-92 
MCH-29.6 MCHC-32.3 RDW-13.1 RDWSD-43.5 Plt ___
___ 04:39AM BLOOD ___ PTT-26.9 ___
___ 04:39AM BLOOD Glucose-100 UreaN-17 Creat-0.6 Na-136 
K-3.7 Cl-98 HCO3-24 AnGap-14
___ 04:39AM BLOOD ALT-18 AST-24 LD(LDH)-135 AlkPhos-88 
TotBili-0.7
___ 04:39AM BLOOD Calcium-9.5 Phos-3.6 Mg-1.9 Iron-155
___ 04:39AM BLOOD calTIBC-289 Ferritn-355* TRF-222
___ 04:39AM BLOOD CEA-3.7 AFP-6.6

DISCHARGE/PERTINENT LABS
========================
___ 05:54AM BLOOD WBC-5.7 RBC-4.49 Hgb-13.4 Hct-40.6 MCV-90 
MCH-29.8 MCHC-33.0 RDW-12.8 RDWSD-42.5 Plt ___
___ 05:54AM BLOOD ___ PTT-30.3 ___
___ 05:54AM BLOOD Glucose-85 UreaN-11 Creat-0.5 Na-135 
K-4.1 Cl-101 HCO3-20* AnGap-14
___ 05:54AM BLOOD ALT-18 AST-28 AlkPhos-70 TotBili-0.9
___ 05:54AM BLOOD Calcium-9.2 Phos-2.3* Mg-2.1
___ 09:15PM BLOOD Lipase-19
___ 09:15PM BLOOD TSH-1.5
___ 09:15PM BLOOD T4-9.2 T3-172
___ 05:50AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-POS*
___ 05:54AM BLOOD HIV Ab-NEG
___ 05:24AM BLOOD CMV VL-NOT DETECT
___ 05:24AM BLOOD HCV VL-NOT DETECT
___ 05:54AM BLOOD Metanephrines (Plasma)-PND 
 
Brief Hospital Course:
BRIEF HOSPITAL SUMMARY
=====================
Ms. ___ is a ___ woman with history of HCV s/p Harvoni c/b 
Childs A cirrhosis, history of prior hepatic lesion that 
spontaneously regressed on serial imaging, hyperthyroidism, and 
osteopenia who was transferred from ___ for continuity of care 
and biopsy. She initially presented to ___ with abdominal 
pain, nausea, and vomiting, where imaging showed a ~5cm liver 
lesion. She was then transferred to ___ where she had 
unsuccessful biopsy attempt, and therefore transferred to ___ for 
further workup and to see her regular providers. On arrival her 
symptoms had resolved. Radiology reread her images and 
recommended EUS-guided biopsy, lymphoma protocol (results 
pending). She had persistent hypertension after the biopsy that 
improved with medications. She also had tachycardia with 
exertion that improved with bolus of IVF. She was discharged 
with close follow up. 

TRANSITIONAL ISSUES
=================
[ ] We recommend the PCP follow up on the biopsy results. The 
oncology team here will also call the patient to schedule follow 
up when the biopsy results. 
[ ] Follow up on plasma metanephrine level and consider 24-hour 
urine metanephrine for further workup of possible 
pheochromocytoma if her symptoms persists
[ ] Will need EGD as follow up for cirrhosis management of 
variceal monitoring
[ ] If ___ has persistently poor appetite, consider starting 
mirtazapine QHS for appetite stimulation
[ ] Please titrate blood pressure medications as needed. 

# CONTACT: ___, Daughter, ___

MEDICATION CHANGES
==================
Increased lisinopril from 5mg daily to 20mg daily 
Started amlodipine 7.5mg daily for hypertension
Started marinol 2.5mg BID for appetite stimulation
Prescribing Zofran ODT for PRN use 

ACUTE ISSUES
===========
# Liver lesion with extension into portal vein 
At ___, CT torso showed heterogenous liver mass with invasion 
into the portal vein. An MRI showed a heterogenously enhancing 
mass predominantly intravascular in the main portal vein. ___ was 
unable to do the biopsy due to the location. GI was unable to 
collect tissue via EUS. Their plan was to consult surgical 
oncology for biopsy but after discussion with Dr. ___ was 
transferred to ___ for continuity of care. On arrival she 
reported her pain, nausea, and vomiting had resolved. CDs were 
obtained from ___ and ___ radiologists reread the films and 
recommended EUS. The ERCP fellow did a biopsy (results pending). 
___ had nausea and vomiting after the procedure that resolved 
with Zofran. 

# Hypertension
Well controlled on presentation. She reports she was recently 
diagnosed with hypertension but upon review of her atria's 
records it appears that she has been hypertensive in the clinic 
for several years and has declined antihypertensive medications. 
SBP 200s after procedure likely secondary to nausea, vomiting, 
and pain. However, hypertension persisted despite uptitration of 
medications. Workup for pheochromocytoma was initiated with 
plasma metanephrines because patient reported recent episodes of 
sweating. She was discharged on higher dose of lisinopril and 
amlodipine. 

# Tachycardia
#Orthostasis
Intermittent tachycardia after the biopsy worse with activity, 
not sustaining. Likely volume depleted in the setting of poor PO 
intake. We bolused her with fluids which improved her 
orthostasis.

# Nausea/Vomiting
Nausea and vomiting after biopsy likely secondary to MAC during 
the procedure. Resolved with zofran. 

# Anorexia
Patient reported poor appetite for several weeks, perhaps 
secondary to malignancy. We started marinol and nutrition was 
consulted who felt she met criteria for severe malnutrition. 

CHRONIC ISSUES
=============
# Cirrhosis
No evidence of decompensation. Childs A. 

# Osteoporosis
Continued home alendronate

# Hyperthyroidism
Continued home PTU 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QTUES 
2. Propylthiouracil 50 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Calcium Carbonate 500 mg PO QID:PRN heartburn 
7. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 7.5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily for a total of 
7.5mg Disp #*30 Tablet Refills:*0 
2.  Dronabinol 2.5 mg PO BID 
RX *dronabinol [Marinol] 2.5 mg 1 capsule(s) by mouth twice a 
day Disp #*30 Capsule Refills:*0 
3.  Ondansetron ODT 4 mg PO QID 
RX *ondansetron 4 mg 1 tablet(s) by mouth four times daily as 
needed Disp #*30 Tablet Refills:*0 
4.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Alendronate Sodium 70 mg PO QTUES  
6.  Aspirin 81 mg PO DAILY  
7.  Calcium Carbonate 500 mg PO QID:PRN heartburn  
8.  Multivitamins 1 TAB PO DAILY  
9.  Propylthiouracil 50 mg PO DAILY  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
================
LIVER LESION WITH EXTENSION INTO PORTAL VEIN
ANOREXIA
NAUSEA
VOMITING
HYPERTENSION
TACHYCARDIA
DEHYDRATION 
SEVERE MALNUTRITION 

SECONDARY DIAGNOSES
===================
CIRRHOSIS
OSTEOPOROSIS
HYPERTHYROIDISM

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure to care for you at ___.

You were transferred to our hospital because you see many of our 
doctors ___. You first came to the hospital because of belly 
pain. A scan showed a possible mass and you were transferred for 
biopsy.

WHAT HAPPENED IN THE HOSPITAL?
- We got a copy of your CT and MRI scan from ___ 
___, which showed a mass
- Our radiologists read the CT and MRI scans and figured out how 
to biopsy the mass
- Our gastroenterology doctors ___ the ___. We do not have 
the results of this yet
- After the biopsy you felt very nauseous and threw up, which we 
treated with medications
- You had high blood pressure after your biopsy, which we 
treated with medications
- You were dehydrated so we gave you fluids through the IV  

WHAT SHOULD YOU DO WHEN YOU LEAVE?
- We scheduled an appointment with your PCP in ___ few days. This 
is an important appointment to go to because of your blood 
pressures, which are occasionally still high. We increased your 
medications, but a doctor should see you soon to look at your 
pressures.
- Our oncology doctors ___ appointment for you with 
the right kind of cancer doctor when the results of your biopsy 
are back. You can expect to hear from them within the week. 

We wish you the best!

Sincerely,
Your care team at ___ 
 
Followup Instructions:
___